US08859591B2
To a flask containing ethyl 3-(4-((3,5-dimethyl-4-(4-(trifluoromethyl)-1H-pyrazol-1-yl)phenoxy)(3,3-dimethylcyclobutyl)methyl)benzamido)propanoate (100 mg, 0.180 mmol) was added water (0.437 mL), tetrahydrofuran (0.437 mL), and methanol (0.437 mL). Sodium hydroxide (36.1 mg, 0.880 mmol) was then added. The suspension was stirred at room temperature for 18 hours. The reaction was quenched with 1 N hydrochloric acid to pH 3 and extracted three times with ethyl acetate. The combined organic layers were dried over sodium sulfate, filtered, and concentrated to give 108 mg of crude material. The crude material was azeotrophed three times with toluene and three times with methylene chloride and then dried in vacuo for 18 h to provide (+/−)-3-(4-((3,5-dimethyl-4-(4-(trifluoromethyl)-1H-pyrazol-1-yl)phenoxy)(3,3-dimethylcyclobutyl)methyl)benzamido)propanoic acid (99.0 mg, 100%) as a solid. 1H NMR (400 MHz, CDCl3) δ 7.88 (s, 1H), 7.71 (d, J=8.2 Hz, 2H), 7.65 (s, 1H), 7.36 (d, J=8.4 Hz, 2H), 6.76 (t, J=6.2 Hz, 1H), 6.56 (s, 2H), 5.01 (d, J=7.0 Hz, 1H), 3.72 (q, J=5.9 Hz, 2H), 2.74-2.59 (m, 3H), 1.88 (s, 6H), 1.87-1.68 (m, 3H), 1.68-1.58 (m, 1H), 1.13 (s, 3H), 1.10 (s, 3H). MS (M+1): 544.3.

reactant | ethyl 3-(4-((3,5-dimethyl-4-(4-(trifluoromethyl)-1H-pyrazol-1-yl)phenoxy)(3,3-dimethylcyclobutyl)methyl)benzamido)propanoate | 0.180 mmol, 100 mg | CC=1C=C(OC(C2=CC=C(C(=O)NCCC(=O)OCC)C=C2)C2CC(C2)(C)C)C=C(C1N1N=CC(=C1)C(F)(F)F)C | C31H36F3N3O4
reactant | water | 0.437 mL | O | H2O
reactant | tetrahydrofuran | 0.437 mL | O1CCCC1 | C4H8O
reactant | Sodium hydroxide | 0.880 mmol, 36.1 mg | [OH-].[Na+]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | methanol | 0.437 mL | CO | CH4O
product | (+/−)-3-(4-((3,5-dimethyl-4-(4-(trifluoromethyl)-1H-pyrazol-1-yl)phenoxy)(3,3-dimethylcyclobutyl)methyl)benzamido)propanoic acid | 99.0 mg, 100% | CC=1C=C(OC(C2=CC=C(C(=O)NCCC(=O)O)C=C2)C2CC(C2)(C)C)C=C(C1N1N=CC(=C1)C(F)(F)F)C | C29H32F3N3O4
